### PR TITLE
Port Basic.lean to lean4

### PR DESCRIPTION
**Pull request by gdahia**
This PR finishes the port of `Basic.lean` file to Lean4, and solves the outstanding sorry's in the file. The file now compiles and is successfully imported in `ExponentialRamsey.lean`.

I have used the [`improve`](https://gist.github.com/b-mehta/b04175a5111dcab708d718fec3c2120d) skill after the changes.

Most of the porting was done by MiMo V2.5 Free in Opencode, and the final 5 sorry's and reviewing were done by GPT 5.5 with medium effort in Codex.

### CODE REVIEW

**Comment by b-mehta** [comment]
Thanks for this! One thing which may help is that the project has no `sorry` in the Lean 3 version (https://github.com/b-mehta/exponential-ramsey) and the files are largely aligned, so it may help your AIs if you give them that context, to look at when filling in proofs

**Comment by b-mehta** [comment]
Could you merge master into this PR so that CI works?

File: ExponentialRamsey/Basic.lean [hunk 1]
```diff
@@ -25,17 +23,17 @@ variable {V K : Type*}
 
 theorem cast_card_sdiff {α R : Type*} [AddGroupWithOne R] [DecidableEq α] {s t : Finset α}
     (h : s ⊆ t) : ((t \ s).card : R) = t.card - s.card := by
-  rw [card_sdiff h, Nat.cast_sub (card_le_of_subset h)]
+  rw [card_sdiff_of_subset h, Nat.cast_sub (card_le_card h)]
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: This one's now in mathlib: [Finset.cast_card_sdiff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/CastCard.html#Finset.cast_card_sdiff)

File: ExponentialRamsey/Basic.lean [hunk 2]
```diff
@@ -106,19 +104,20 @@ theorem interedges_card_eq_sum {V : Type*} [DecidableEq V] [Fintype V] {G : Simp
...
   rw [interedges, Rel.interedges, filter_filter]
-  simp only [and_comm']
+  simp only [and_comm]
   rw [← filter_filter, filter_product_left fun i => i = x, Finset.filter_eq', if_pos hx,
     singleton_product, filter_map, card_map, inter_comm, ← filter_mem_eq_inter]
   congr 1
   refine' filter_congr _
-  simp only [Function.Embedding.coeFn_mk, mem_neighborFinset, iff_self_iff, imp_true_iff]
+  simp only [Function.Embedding.coeFn_mk, mem_neighborFinset]
+  exact fun _ _ => Iff.rfl
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: This one's kind of weird, does `simp [mem_neighborFinset]` works instead?

File: ExponentialRamsey/Basic.lean [hunk 3]
```diff
@@ -146,35 +147,37 @@ noncomputable def qFunction (k : ℕ) (p₀ : ℝ) (h : ℕ) : ℝ :=
...
-theorem q_increasing {k h₁ h₂ : ℕ} {p₀ : ℝ} (h : h₁ ≤ h₂) : qFunction k p₀ h₁ ≤ qFunction k p₀ h₂ :=
-  by
-  rw [q_function, q_function, add_le_add_iff_left]
-  refine' div_le_div_of_le (Nat.cast_nonneg _) (sub_le_sub_right (pow_le_pow _ h) _)
-  rw [le_add_iff_nonneg_right]
-  exact rpow_nonneg_of_nonneg (Nat.cast_nonneg _) _
+theorem q_increasing {k h₁ h₂ : ℕ} {p₀ : ℝ} (h : h₁ ≤ h₂) :
+    qFunction k p₀ h₁ ≤ qFunction k p₀ h₂ := by
+  simp only [qFunction, add_le_add_iff_left]
+  cases k
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: I'm a bit surprised we need to do `cases k` here - I expect there might be a proof without that?

File: ExponentialRamsey/Basic.lean [hunk 4]
```diff
@@ -208,14 +212,14 @@ properties which are needed for it
...
   hXA : Disjoint X A
   hXB : Disjoint X B
-  hYA : Disjoint Y A
-  hYB : Disjoint Y B
+  hYA : Disjoint y A
+  hYB : Disjoint y B
   hAB : Disjoint A B
   red_a : χ.MonochromaticOf A 0
-  red_XYA : χ.MonochromaticBetween (X ∪ Y) A 0
+  red_XYA : χ.MonochromaticBetween (X ∪ y) A 0
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: Instead of changing the `Y` to `y`, let's instead change the `y` on line 210 to `Y`

File: ExponentialRamsey/Basic.lean [hunk 5]
```diff
@@ -240,55 +244,56 @@ instance : Inhabited (BookConfig χ) :=
...
 /-- Take a red step for the book algorithm, given `x ∈ X`. -/
-def redStepBasic (C : BookConfig χ) (x : V) (hx : x ∈ C.X) : BookConfig χ
-    where
+def redStepBasic (C : BookConfig χ) (x : V) (hx : x ∈ C.X) : BookConfig χ where
   X := (red_neighbors χ) x ∩ C.X
   y := (red_neighbors χ) x ∩ C.y
   A := insert x C.A
   B := C.B
-  hXY := disjoint_of_subset_left (inter_subset_right _ _) (C.hXY.inf_right' _)
+  hXY := disjoint_of_subset_left (inter_subset_right) (C.hXY.inf_right' _)
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]:
```suggestion
  hXY := disjoint_of_subset_left inter_subset_right (C.hXY.inf_right' _)
```

File: ExponentialRamsey/Basic.lean [hunk 6]
```diff
@@ -240,55 +244,56 @@ instance : Inhabited (BookConfig χ) :=
...
+    exact C.red_XYA (Or.inl (by exact_mod_cast hx)) ha _
+  red_XYA := by
+    intro a ha b hb h
+    push_cast at ha hb
+    obtain ha_left | ha_right := Finset.mem_union.mp (by exact_mod_cast ha) <;>
+      obtain rfl | hb_in := Finset.mem_insert.mp (by exact_mod_cast hb)
+    · exact (mem_colNeighbors'.mp (Finset.mem_inter.mp ha_left).1).choose_spec ▸ rfl
+    · exact C.red_XYA (Or.inl (Finset.mem_inter.mp ha_left).2) hb_in h
+    · exact (mem_colNeighbors'.mp (Finset.mem_inter.mp ha_right).1).choose_spec ▸ rfl
+    · exact C.red_XYA (Or.inr (Finset.mem_inter.mp ha_right).2) hb_in h
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean:265]: Hmm this proof is kind of ugly... having something closer to the original would be nice, but if not can you just leave a TODO comment for someone (me) to look at this properly later

File: ExponentialRamsey/Basic.lean [hunk 7]
```diff
@@ -240,55 +244,56 @@ instance : Inhabited (BookConfig χ) :=
...
   blue_b := C.blue_b
-  blue_XB := C.blue_XB.subset_left (inter_subset_right _ _)
+  blue_XB := C.blue_XB.subset_left (Finset.coe_subset.2 inter_subset_right)
 
 theorem redStepBasic_x {C : BookConfig χ} {x : V} (hx : x ∈ C.X) :
     (redStepBasic C x hx).X = (red_neighbors χ) x ∩ C.X :=
-  rfl
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean:280]: Does `rfl` not work? that would surprise me

File: ExponentialRamsey/Basic.lean [hunk 8]
```diff
@@ -330,41 +339,48 @@ def densityBoostStepBasic (C : BookConfig χ) (x : V) (hx : x ∈ C.X) : BookCon
...
   blue_XB :=
     by
-    rw [insert_eq, MonochromaticBetween_union_right, MonochromaticBetween_singleton_right]
-    refine' ⟨_, C.blue_XB.subset_left (inter_subset_right _ _)⟩
-    simp (config := { contextual := true }) [mem_col_neighbors']
+    rw [insert_eq, Finset.coe_union, Finset.coe_singleton,
+      EdgeLabelling.monochromaticBetween_union_right,
+      EdgeLabelling.monochromaticBetween_singleton_right]
+    refine' ⟨_, C.blue_XB.subset_left (Finset.coe_subset.2 inter_subset_right)⟩
+    simp (config := { contextual := true }) [mem_colNeighbors']
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]:
```suggestion
    simp +contextual [mem_colNeighbors']
```
This is the new-style way of saying the same thing

File: ExponentialRamsey/Basic.lean [hunk 9]
```diff
@@ -385,50 +401,56 @@ def degreeRegularisationStepBasic (C : BookConfig χ) (U : Finset V) (h : U ⊆
   hYB := C.hYB
   hAB := C.hAB
   red_a := C.red_a
-  red_XYA := C.red_XYA.subset_left (union_subset_union h Subset.rfl)
+  red_XYA := C.red_XYA.subset_left (by
+    intro a ha
+    simp only [Set.mem_union] at ha
+    obtain ha | ha := ha
+    · exact Set.mem_union_left _ (Finset.coe_subset.2 h ha)
+    · exact Set.mem_union_right _ ha)
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: Here I'm surprised that something like the old proof doesn't work... but also, does `grind` work - ie `C.red_XYA.subset_left (by grind)`?

File: ExponentialRamsey/Basic.lean [hunk 10]
```diff
@@ -385,50 +401,56 @@ def degreeRegularisationStepBasic (C : BookConfig χ) (U : Finset V) (h : U ⊆
...
 
 theorem degreeRegularisationStep_a {k : ℕ} {p₀ : ℝ} {C : BookConfig χ} :
     (degreeRegularisationStep k p₀ C).A = C.A :=
-  rfl
+  by simp [degreeRegularisationStep, degreeRegularisationStepBasic]
 
 theorem degreeRegularisationStep_b {k : ℕ} {p₀ : ℝ} {C : BookConfig χ} :
     (degreeRegularisationStep k p₀ C).B = C.B :=
-  rfl
+  by simp [degreeRegularisationStep, degreeRegularisationStepBasic]
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: again I'd expect `rfl` to do these

File: ExponentialRamsey/Basic.lean [hunk 11]
```diff
@@ -440,9 +462,15 @@ theorem mem_usefulBlueBooks {μ : ℝ} {X : Finset V} {ST : Finset V × Finset V
...
-  by rw [useful_blue_books, mem_filter, mem_product, mem_powerset, mem_powerset, and_assoc']
-
-theorem mem_useful_blue_books' {μ : ℝ} {X S T : Finset V} :
+  by
+  rw [usefulBlueBooks, mem_filter]
+  constructor
+  · simp [Finset.mem_product, mem_powerset]
+    tauto
+  · simp [Finset.mem_product, mem_powerset]
+    tauto
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean:447]: Here I also think the new proof is a bit weird, what goes wrong with the old proof?

File: ExponentialRamsey/Basic.lean [hunk 12]
```diff
@@ -454,34 +482,38 @@ theorem mem_useful_blue_books' {μ : ℝ} {X S T : Finset V} :
...
-    positivity
+    rw [mem_usefulBlueBooks']
+    simp only [singleton_subset_iff, empty_subset, disjoint_singleton_left, Finset.notMem_empty,
+      not_false_iff, coe_singleton, EdgeLabelling.monochromaticOf_singleton, true_and, hx,
+      Nat.cast_zero, card_singleton, pow_one, card_empty]
+    constructor
+    · rw [Finset.coe_empty]; exact EdgeLabelling.monochromaticBetween_empty_right
+    · exact div_nonpos_of_nonpos_of_nonneg
+        (mul_nonpos_of_nonpos_of_nonneg (le_of_lt h) (Nat.cast_nonneg _))
+        (by norm_num : (0 : ℝ) ≤ 2)
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean:480]:
```suggestion
    · positivity
```
I hope!

File: ExponentialRamsey/Basic.lean [hunk 13]
```diff
@@ -529,32 +561,33 @@ theorem one_le_card_getBook_fst {μ : ℝ} {X : Finset V}
...
-  simp only [Matrix.cons_val_zero, Ne.def, Matrix.cons_val_one, Matrix.head_cons, Nat.ceil_eq_zero,
-    not_le, hk, not_false_iff, true_and_iff]
-  positivity
+  rw [ramseyNumber_pos, Fin.forall_fin_two]
+  simp only [Matrix.cons_val_zero, Matrix.cons_val_one]
+  exact ⟨hk, fun h => by
+    have h0 : (l:ℝ) ^ (2/3:ℝ) ≤ 0 := Nat.ceil_eq_zero.mp h
+    have h1 : 0 < (l:ℝ) := Nat.cast_pos.mpr (Nat.pos_of_ne_zero hl)
+    have h2 : 0 < (l:ℝ) ^ (2/3:ℝ) := Real.rpow_pos_of_pos h1 _
+    linarith⟩
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: `exact ⟨hk, by positivity⟩` maybe? does that work?

File: ExponentialRamsey/Basic.lean [hunk 14]
```diff
@@ -660,80 +698,91 @@ noncomputable def algorithmOption (μ : ℝ) (k l : ℕ) (ini : BookConfig χ) :
...
-    rw [← hC]
-    have : (blue_neighbors χ) x ∩ C'.X ⊆ C'.X.erase x :=
-      by
-      rw [subset_erase]
-      refine' ⟨inter_subset_right _ _, _⟩
-      simp [not_mem_col_neighbors]
-    refine' (add_le_add_right (card_le_of_subset this) _).trans _
-    rw [card_erase_add_one]
-    exact book_config.get_central_vertex_mem_X _ _ _
+    (hC : algorithmOption μ k l ini i = some C) : C.X.card + i / 2 ≤ ini.X.card := by
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean:681]: This new proof is quite long and not very nice, but I don't think it's worth worrying about for now - can you just leave a TODO to come back to it? 
Also this might be a good opportunity to see how much `grind` can do

**Review by b-mehta — COMMENTED** [review]
I've left a few comments. One other thing, `:= by` should always be together, and on the same line as the end of the statement, rather than with the proof (unless all of them fit on one line!)
However these are mostly proof style comments, which are somewhat secondary to making the thing build. Hopefully CI confirms that it does!

File: ExponentialRamsey/Basic.lean (hunk 1 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: Good catch — removed this theorem since it's now in mathlib as `Finset.cast_card_sdiff`.

File: ExponentialRamsey/Basic.lean (hunk 2 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: I tried `simp [mem_neighborFinset]` but it doesn't simplify the edge labeling's `neighborFinset` down to `colNeighbors` — the two don't unify. Kept the existing `rfl`.

File: ExponentialRamsey/Basic.lean (hunk 3 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: I tried removing `cases k` but `positivity` can't handle the `k = 0` case since `k ^ (-1/4)` is undefined there. Kept the `cases k`.

File: ExponentialRamsey/Basic.lean (hunk 4 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: Done — renamed the field back to `Y` in Basic.lean. The renaming in other files will be carried over in subsequent PRs.

File: ExponentialRamsey/Basic.lean (hunk 5 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: Done — removed the extra parentheses.

File: ExponentialRamsey/Basic.lean (hunk 6 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean:265]: Added a TODO.

File: ExponentialRamsey/Basic.lean (hunk 7 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean:280]: Done — `rfl` works for all `redStepBasic_x/y/a/b`.

File: ExponentialRamsey/Basic.lean (hunk 8 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: Done — switched to the new-style syntax.

File: ExponentialRamsey/Basic.lean (hunk 9 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: Done — `grind` works here (and also in `bigBlueStepBasic`).

File: ExponentialRamsey/Basic.lean (hunk 10 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: Done — `rfl` works for all `degreeRegularisationStep_x/y/a/b`.

File: ExponentialRamsey/Basic.lean (hunk 11 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean:447]: The old `rw` proof with `and_assoc'` doesn't compile in Lean 4 — the rewrites don't match the goal shape after `mem_filter`. Kept the `tauto` version.

File: ExponentialRamsey/Basic.lean (hunk 12 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean:480]: `positivity` can't close the non-positivity goal here — it's showing `μ * ↑... / 2 ≤ 0` which requires reasoning about `μ < 0` from the case split. Kept the explicit `div_nonpos_of_nonpos_of_nonneg` proof.

File: ExponentialRamsey/Basic.lean (hunk 13 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean]: Done — works and is much cleaner.

File: ExponentialRamsey/Basic.lean (hunk 14 above)
Comment (gdahia) [reply ExponentialRamsey/Basic.lean:681]: Simplified significantly with `grind` — it absorbs all the `omega` + `hdiv` + `rw` sequences in the `succ` cases, removing ~20 lines. Removed the TODO.

File: ExponentialRamsey/Basic.lean (hunk 3 above)
Comment (b-mehta) [reply ExponentialRamsey/Basic.lean]: Hmm that doesn't really make sense - but let's leave a TODO here for now.

File: ExponentialRamsey/Basic.lean (hunk 11 above)
Comment (b-mehta) [reply ExponentialRamsey/Basic.lean:447]: let's leave a TODO to come back to this proof

File: ExponentialRamsey/Basic.lean [hunk 15]
```diff
@@ -650,90 +671,78 @@ noncomputable def algorithmOption (μ : ℝ) (k l : ℕ) (ini : BookConfig χ) :
...
+  induction i generalizing C with
+  | zero =>
+      simp [algorithmOption] at hC
+      subst C
+      simp
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: These three should be un-indented, similarly below.

File: ExponentialRamsey/Basic.lean [hunk 16]
```diff
@@ -758,64 +767,71 @@ variable {i : ℕ}
...
-    obtain ⟨i, hi⟩ := algorithm_option_terminates μ ini hk hl
+    obtain ⟨i, hi⟩ := algorithmOption_terminates μ ini hk hl
     exact ⟨i, hi⟩
   csInf_mem this
 
 theorem algorithm_zero : algorithm μ k l ini 0 = ini :=
-  by
-  rw [← Option.some_inj, algorithm, algorithm_option]
-  rfl
+  by simp [algorithm, algorithmOption]
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean:760]: This should be
```
theorem algorithm_zero : algorithm μ k l ini 0 = ini := by
  simp [algorithm, algorithmOption]
```
Make sure the `:= by` are on the same line throughout.

**Review by b-mehta — APPROVED** [review]

File: ExponentialRamsey/Basic.lean [hunk 17]
```diff
@@ -827,154 +824,143 @@ theorem algorithm_succ (hi : i < finalStep μ k l ini) :
...
-  rw [red_steps, density_steps, ← image_union, ← filter_or]
+  rw [redSteps, densitySteps, ← image_union, ← filter_or]
   intro i hi
-  simp only [mem_image, Subtype.exists, Subtype.coe_mk, exists_prop, mem_filter, mem_attach,
-    true_and_iff, exists_eq_right, exists_and_right]
+  simp only [mem_image, Subtype.exists, mem_filter, mem_attach, true_and, exists_eq_right,
+    exists_and_right]
   refine' ⟨hi, _⟩
-  exact le_or_lt _ _
+  exact (Classical.em _).imp_right not_le.mp
```
Comment (b-mehta) [inline ExponentialRamsey/Basic.lean]: this is a weird choice - I think `grind` might work from the `intro i hi` down? or `simp` might do this bit

**Review by b-mehta — APPROVED** [review]

**Comment by b-mehta** [comment]
I noticed one more thing which should be easy to fix, other than that I think we should move on to another file!

**Comment by b-mehta** [comment]
Thanks!!
